US04565817
30.9 g. 7-[(5-chloromethyl-1,2,4-oxadiazol-3-yl)-methyl]-theophylline are heated in 300 cm3 dimethylformamide with 18.5 g. potassium phthalamide under stirring for 6 hours. Dimethylformamide is distilled off at reduced pressure, and the residue is triturated with 300 cm3 ethanol and 5.2 g. of hydrazine hydrate are added, the mixture is heated on water bath for 2 hours, acidified with concentrated aqueous hydrochloric acid, the mixture is boiled and filtered when hot and the filtrate is evaporated. After crystallization from methanol 24.7 g. (74.2% yield) of 7-[(5-aminomethyl-1,2,4-oxadiazol-3-yl)-methyl]-theophylline-hydrochloride are obtained, m.p.: 204°-207° C.

reactant | 7-[(5-chloromethyl-1,2,4-oxadiazol-3-yl)-methyl]-theophylline | ClCC1=NC(=NO1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C11H11ClN6O3
reactant | potassium phthalamide | C(C=1C(C(=O)N)=CC=CC1)(=O)N.[K]
solvent | dimethylformamide | 300 cm3 | CN(C=O)C | C3H7NO
product | 7-[(5-aminomethyl-1,2,4-oxadiazol-3-yl)-methyl]-theophylline-hydrochloride | 74.2% yield | Cl.NCC1=NC(=NO1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C | InChI=1S/C11H13N7O3.ClH/c1-16-9-8(10(19)17(2)11(16)20)18(5-13-9)4-6-14-7(3-12)21-15-6;/h5H,3-4,12H2,1-2H3;1H
